US04876081
To a solution of 3,3-dimethyl-4-pentynoic acid (20 mg, 0.16 mmol) in toluene (0.30 mL) under N2 was added Bu3SnH (0.10 mL, 0.38 mmol) followed by Et3B (0.03 mL, 1.0 M solution in hexanes, 0.03 mmol). The resulting solution was stirred at room temperature for 21/2 hours after which the solvent was evaporated under reduced pressure. The resulting oil was dissolved in anhydrous THF (0.32 mL) and 2,3,5,6-tetrafluorophenol (60 mg, 0.36 mmol) followed by dicyclohexylcarbodiimide (68 mg, 033 mmol) were added. The resulting solution was stirred at room temperature overnight during which time a white precipitate formed. The THF was evaporated under reduced pressure and the residue was suspended in CH3CN. The insoluble precipitate was filtered off and the filtrate was purified via flash chromatography (silica gel, 10 mm×160 mm, 2% EtOAc/hexanes) to afford 41 mg (45%) of 2,3,5,6-tetrafluorophenyl 3,3-dimethyl-5-(tri-n-butylstannyl)- 4-pentenoate as a mixture of isomers.

reactant | 3,3-dimethyl-4-pentynoic acid | 0.16 mmol, 20 mg | CC(CC(=O)O)(C#C)C | C7H10O2
reactant | Bu3SnH | 0.38 mmol, 0.10 mL | CCCC[SnH](CCCC)CCCC
reactant | Et3B | 0.03 mmol, 1.0 M, 0.03 mL | B(CC)(CC)CC | C6H15B
reactant | 2,3,5,6-tetrafluorophenol | 0.36 mmol, 60 mg | FC1=C(C(=C(C=C1F)F)F)O | C6H2F4O
reactant | dicyclohexylcarbodiimide | 68 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | toluene | 0.30 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3,5,6-tetrafluorophenyl 3,3-dimethyl-5-(tri-n-butylstannyl)- 4-pentenoate | 41 mg, 45% | CC(CC(=O)OC1=C(C(=CC(=C1F)F)F)F)(C=C[Sn](CCCC)(CCCC)CCCC)C | InChI=1S/C13H11F4O2.3C4H9.Sn/c1-4-13(2,3)6-9(18)19-12-10(16)7(14)5-8(15)11(12)17;3*1-3-4-2;/h1,4-5H,6H2,2-3H3;3*1,3-4H2,2H3;
